US06521643B1
To a suspension of N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)-thiourea (0.15 g) in N,N-dimethylformamide (3 ml) were added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.274 ml) and iodoethane (0.22 ml), and the mixture was stirred at ambient temperature for 5 hours. Ethyl acetate (100 ml) was added to the mixture, and the mixture was cooled. The precipitate was collected by filtration. The precipitate was dissolved in water, and to the solution was added a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and to the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.5 ml). The precipitate was collected by filtration and dried under reduced pressure to give N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)-S-ethylisothiourea dihydrochloride (168 mg).

reactant | N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)-thiourea | 0.15 g | COC1=CC(=NC=C1)C=1C=CC(=C(C1)NC(=S)N)C | C14H15N3OS
reactant | hydrogen chloride | Cl | ClH
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 4N, 0.274 ml | O1CCOCC1 | C4H8O2
solvent | iodoethane | 0.22 ml | ICC | C2H5I
product | N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)-S-ethylisothiourea dihydrochloride | 168 mg | Cl.Cl.COC1=CC(=NC=C1)C=1C=CC(=C(C1)NC(SCC)=N)C | InChI=1S/C16H19N3OS.2ClH/c1-4-21-16(17)19-14-9-12(6-5-11(14)2)15-10-13(20-3)7-8-18-15;;/h5-10H,4H2,1-3H3,(H2,17,19);2*1H
